US05801170
N-[3-(2-Dimethylaminoethoxy)-4-isopropylphenyl]-2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxamide (E32)
The title compound was prepared from 2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxylic acid (EP0533268A1) and 3-(2-dimethylaminoethoxy)-4-isopropylaniline (D56) using a similar procedure to Example 20 (89%). The freebase was converted to the oxalate salt mp 219°-223° C.

reactant | 2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxylic acid | CC1=C(C=CC(=C1)C1=NOC(=N1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 3-(2-dimethylaminoethoxy)-4-isopropylaniline | CN(CCOC=1C=C(N)C=CC1C(C)C)C | C13H22N2O
product | N-[3-(2-Dimethylaminoethoxy)-4-isopropylphenyl]-2'-methyl-4'-(5-methyl-1,2,4-oxadiazol-3-yl)biphenyl-4-carboxamide | CN(CCOC=1C=C(C=CC1C(C)C)NC(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)C1=NOC(=N1)C)C)C | C30H34N4O3
